US05395941
Preparation of methoxymethyl (4S)-5-(2-cyanoethoxycarbonyl)-1,4 -dihydro-2,6-dimethyl -4-(3 -nitrophenyl)pyridine-3-carboxylate
To a solution of 10 mg of (4R)-5-(2-cyanoethoxycarbonyl)-1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)pyridine-3-carboxylic acid in 0.5 ml of N,N-dimethylformamide were added 4.3 mg of potassium carbonate, and then 8 μl of chloromethyl methyl ether. The mixture was stirred at room temperature for 5 hours. The reaction mixture was diluted with 5 ml of ethyl acetate, washed with saturated aqueous sodium hydrogen carbonate solution and with water, and dried over anhydrous Glauber's salt (sodium sulfate), followed by distilling off the solvent under reduced pressure the residue was purified using preparative TLC to obtain 3.6 mg of the objective compound.

reactant | (4R)-5-(2-cyanoethoxycarbonyl)-1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)pyridine-3-carboxylic acid | 10 mg | C(#N)CCOC(=O)C=1[C@@H](C(=C(NC1C)C)C(=O)O)C1=CC(=CC=C1)[N+](=O)[O-] | C18H17N3O6
reactant | potassium carbonate | 4.3 mg | C([O-])([O-])=O.[K+].[K+]
reactant | chloromethyl methyl ether | 8 μl | COCCl | C2H5ClO
solvent | N,N-dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | methoxymethyl (4S)-5-(2-cyanoethoxycarbonyl)-1,4 -dihydro-2,6-dimethyl -4-(3 -nitrophenyl)pyridine-3-carboxylate | 3.6 mg | C(#N)CCOC(=O)C=1[C@@H](C(=C(NC1C)C)C(=O)OCOC)C1=CC(=CC=C1)[N+](=O)[O-] | C20H21N3O7
